US05124350
2,4-Dihydroxy-3-propylbenzene
2,4,-Dimethoxy-3-propylbenzene (7.2 g, 39.94 mmol) was dissolved in 50 ml methylene chloride and the solution was cooled to -70° C. then 87.0 ml of 1 M boron tribromide in methylene chloride was added over a period of 1 hour. The reaction mixture was stirred at -70° C. for 1 hour, then at room temperature for 2 hours. The reaction mixture was poured into 250 ml of ice water very slowly. This mixture was extracted 3 times with 100 ml methylene chloride. The extracts were combined, dried over anhydrous magnesium sulfate, filtered, and the solvent was removed under vacuum to give the product as a white solid (4.9 g, 81.7%).

reactant | 2,4,-Dimethoxy-3-propylbenzene | 39.94 mmol, 7.2 g | COC1=CC=CC(=C1CCC)OC | C11H16O2
reactant | boron tribromide | 1 M, 87.0 ml | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2,4-Dihydroxy-3-propylbenzene | 4.9 g, 81.7% | OC1=CC=CC(=C1CCC)O | C9H12O2
